US08222416B2
To a stirred solution of 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(4-methylsulfanyl-phenyl)-ethanol (5 g, 10 mmol) in methanol (100 mL) and water (30 mL) was added sodium metaperiodate (4.3 g, 20 mmol) at room temperature. The resulting mixture was stirred at room temperature for 18 h, extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to give 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(4-methaneylsulfinyl-phenyl)-ethanol (5.1 g, quant.) as a light yellow solid: LC/MS m/e calcd for C27H27FN2O4S2 [M+H]+ 527.65, observed 527.0.

reactant | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(4-methylsulfanyl-phenyl)-ethanol | 10 mmol, 5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCCC2)(O)C2=CC=C(C=C2)SC | C27H27FN2O3S2
reactant | sodium metaperiodate | 20 mmol, 4.3 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(4-methaneylsulfinyl-phenyl)-ethanol | 5.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCCC2)(O)C2=CC=C(C=C2)S(=O)C | C27H27FN2O4S2
